US07741341B2
5-Fluoro-2-trichloromethyl-1H-benzoimidazole-4-carboxylic acid ethyl ester was prepared by a procedure according to example 5 (i) starting from 150.0 mg (0.76 mmol) 2,3-Diamino-6-fluoro-benzoic acid ethyl ester and 133 μl (1.06 mmol) 2,2,2-trichloro-acetimidic acid methyl ester.

reactant | 2,3-Diamino-6-fluoro-benzoic acid ethyl ester | 0.76 mmol, 150.0 mg | C(C)OC(C1=C(C(=CC=C1F)N)N)=O | C9H11FN2O2
reactant | 2,2,2-trichloro-acetimidic acid methyl ester | 1.06 mmol, 133 μl | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
product | 5-Fluoro-2-trichloromethyl-1H-benzoimidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=CC=2NC(=NC21)C(Cl)(Cl)Cl)F | C11H8Cl3FN2O2
